* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 9.751412825148648
Fd1_1 0 s1 V1 487.57064125743244
Gr1_1_1 0 s1 x1_a1 0 -1.8106697372370483e+17
Gr2_re_1_1 0 s1 x2_re_a1 0 4408466907.117221
Gr2_im_1_1 0 s1 x2_im_a1 0 -791684000.6744233
Gr3_re_1_1 0 s1 x3_re_a1 0 223747648.5067909
Gr3_im_1_1 0 s1 x3_im_a1 0 -3858020988.7366505
Gr4_re_1_1 0 s1 x4_re_a1 0 -206054779.06948447
Gr4_im_1_1 0 s1 x4_im_a1 0 -44713842.45751752
Gr5_re_1_1 0 s1 x5_re_a1 0 80319212.83414389
Gr5_im_1_1 0 s1 x5_im_a1 0 -36758869.72226048
Gd1_2 0 s1 p2 0 0.237784112646766
Fd1_2 0 s1 V2 11.8892056323383
Gr1_1_2 0 s1 x1_a2 0 -4413962679204200.0
Gr2_re_1_2 0 s1 x2_re_a2 0 6629932.9997738125
Gr2_im_1_2 0 s1 x2_im_a2 0 -11873354.018191926
Gr3_re_1_2 0 s1 x3_re_a2 0 4723531.587072024
Gr3_im_1_2 0 s1 x3_im_a2 0 -19123418.36657814
Gr4_re_1_2 0 s1 x4_re_a2 0 -5278988.522188698
Gr4_im_1_2 0 s1 x4_im_a2 0 8909137.035501413
Gr5_re_1_2 0 s1 x5_re_a2 0 11921077.234886466
Gr5_im_1_2 0 s1 x5_im_a2 0 -12753528.759463945
Gd1_3 0 s1 p3 0 -0.00013043216032255473
Fd1_3 0 s1 V3 -0.006521608016127736
Gr1_1_3 0 s1 x1_a3 0 2421180909621.5
Gr2_re_1_3 0 s1 x2_re_a3 0 -28071.495144225566
Gr2_im_1_3 0 s1 x2_im_a3 0 5767.070111439822
Gr3_re_1_3 0 s1 x3_re_a3 0 1387.6726157894325
Gr3_im_1_3 0 s1 x3_im_a3 0 20021.977682139124
Gr4_re_1_3 0 s1 x4_re_a3 0 -1569.0783843916304
Gr4_im_1_3 0 s1 x4_im_a3 0 -28.336766283931528
Gr5_re_1_3 0 s1 x5_re_a3 0 -141.37289709811932
Gr5_im_1_3 0 s1 x5_im_a3 0 85.07497384157486
Gd1_4 0 s1 p4 0 -0.00013191129708943917
Fd1_4 0 s1 V4 -0.006595564854471958
Gr1_1_4 0 s1 x1_a4 0 2448329557771.9487
Gr2_re_1_4 0 s1 x2_re_a4 0 7229.829788286526
Gr2_im_1_4 0 s1 x2_im_a4 0 13966.937590543968
Gr3_re_1_4 0 s1 x3_re_a4 0 10381.092758628176
Gr3_im_1_4 0 s1 x3_im_a4 0 4189.390874298108
Gr4_re_1_4 0 s1 x4_re_a4 0 -1617.3443904321193
Gr4_im_1_4 0 s1 x4_im_a4 0 -1251.1568116612589
Gr5_re_1_4 0 s1 x5_re_a4 0 121.12809709304234
Gr5_im_1_4 0 s1 x5_im_a4 0 429.33610194122565
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 7.619384561850089e-16
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 4.9620593442064046e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 280101707640.73303
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -280101707640.73303
Rp2_im_im_a1 0 x2_im_a1 4.9620593442064046e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 3.221281280932899e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 204874769150.68268
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -204874769150.68268
Rp3_im_im_a1 0 x3_im_a1 3.221281280932899e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 3.810870021551563e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 160645344427.1817
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -160645344427.1817
Rp4_im_im_a1 0 x4_im_a1 3.810870021551563e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.3785737572363337e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 112766178254.97568
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -112766178254.97568
Rp5_im_im_a1 0 x5_im_a1 1.3785737572363337e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.23775367002977782
Fd2_1 0 s2 V1 11.88768350148889
Gr1_2_1 0 s2 x1_a1 0 -4413398102145541.5
Gr2_re_2_1 0 s2 x2_re_a1 0 6652571.034908239
Gr2_im_2_1 0 s2 x2_im_a1 0 -11776236.620197073
Gr3_re_2_1 0 s2 x3_re_a1 0 4779143.186033132
Gr3_im_2_1 0 s2 x3_im_a1 0 -19143740.475110687
Gr4_re_2_1 0 s2 x4_re_a1 0 -5255130.034717772
Gr4_im_2_1 0 s2 x4_im_a1 0 8899092.396507446
Gr5_re_2_1 0 s2 x5_re_a1 0 11891255.238891348
Gr5_im_2_1 0 s2 x5_im_a1 0 -12758628.525379127
Gd2_2 0 s2 p2 0 7.265017849451014
Fd2_2 0 s2 V2 363.25089247255073
Gr1_2_2 0 s2 x1_a2 0 -1.3491456696379382e+17
Gr2_re_2_2 0 s2 x2_re_a2 0 4377472896.671492
Gr2_im_2_2 0 s2 x2_im_a2 0 -393979012.09487325
Gr3_re_2_2 0 s2 x3_re_a2 0 464111553.2129258
Gr3_im_2_2 0 s2 x3_im_a2 0 -3838204471.501934
Gr4_re_2_2 0 s2 x4_re_a2 0 -204896052.6262365
Gr4_im_2_2 0 s2 x4_im_a2 0 -54449522.83741863
Gr5_re_2_2 0 s2 x5_re_a2 0 83850632.53011258
Gr5_im_2_2 0 s2 x5_im_a2 0 -19206023.570628792
Gd2_3 0 s2 p3 0 7.032010285715795e-05
Fd2_3 0 s2 V3 0.003516005142857898
Gr1_2_3 0 s2 x1_a3 0 -1305839977380.4517
Gr2_re_2_3 0 s2 x2_re_a3 0 32001.90371603967
Gr2_im_2_3 0 s2 x2_im_a3 0 -20036.11475680311
Gr3_re_2_3 0 s2 x3_re_a3 0 19253.06929847481
Gr3_im_2_3 0 s2 x3_im_a3 0 -17548.67648830716
Gr4_re_2_3 0 s2 x4_re_a3 0 -1107.0636661104004
Gr4_im_2_3 0 s2 x4_im_a3 0 -1585.37424508387
Gr5_re_2_3 0 s2 x5_re_a3 0 26.682121801818006
Gr5_im_2_3 0 s2 x5_im_a3 0 -190.24020234038875
Gd2_4 0 s2 p4 0 -0.00038681231339895056
Fd2_4 0 s2 V4 -0.019340615669947527
Gr1_2_4 0 s2 x1_a4 0 7179915835427.591
Gr2_re_2_4 0 s2 x2_re_a4 0 -8761.621414632904
Gr2_im_2_4 0 s2 x2_im_a4 0 38367.73433338792
Gr3_re_2_4 0 s2 x3_re_a4 0 21186.02671600366
Gr3_im_2_4 0 s2 x3_im_a4 0 17656.06848835943
Gr4_re_2_4 0 s2 x4_re_a4 0 1118.3096777936084
Gr4_im_2_4 0 s2 x4_im_a4 0 -723.1316658408676
Gr5_re_2_4 0 s2 x5_re_a4 0 228.79634349848425
Gr5_im_2_4 0 s2 x5_im_a4 0 591.4942187668228
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 7.619384561850089e-16
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 4.9620593442064046e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 280101707640.73303
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -280101707640.73303
Rp2_im_im_a2 0 x2_im_a2 4.9620593442064046e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 3.221281280932899e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 204874769150.68268
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -204874769150.68268
Rp3_im_im_a2 0 x3_im_a2 3.221281280932899e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 3.810870021551563e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 160645344427.1817
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -160645344427.1817
Rp4_im_im_a2 0 x4_im_a2 3.810870021551563e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.3785737572363337e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 112766178254.97568
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -112766178254.97568
Rp5_im_im_a2 0 x5_im_a2 1.3785737572363337e-09
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 0.00012196125185104317
Fd3_1 0 s3 V1 0.006098062592552159
Gr1_3_1 0 s3 x1_a1 0 -2264238184308.737
Gr2_re_3_1 0 s3 x2_re_a1 0 2974.452211479602
Gr2_im_3_1 0 s3 x2_im_a1 0 -16955.913147626736
Gr3_re_3_1 0 s3 x3_re_a1 0 -7457.604147883679
Gr3_im_3_1 0 s3 x3_im_a1 0 -22653.235846272855
Gr4_re_3_1 0 s3 x4_re_a1 0 344.1746771336537
Gr4_im_3_1 0 s3 x4_im_a1 0 224.82878794957205
Gr5_re_3_1 0 s3 x5_re_a1 0 286.55772957749724
Gr5_im_3_1 0 s3 x5_im_a1 0 682.5928135901323
Gd3_2 0 s3 p2 0 -0.00018757074985625814
Fd3_2 0 s3 V2 -0.009378537492812908
Gr1_3_2 0 s3 x1_a2 0 3481299710650.36
Gr2_re_3_2 0 s3 x2_re_a2 0 17547.863536974914
Gr2_im_3_2 0 s3 x2_im_a2 0 -7562.4481822654
Gr3_re_3_2 0 s3 x3_re_a2 0 18664.73803950008
Gr3_im_3_2 0 s3 x3_im_a2 0 1112.665600537208
Gr4_re_3_2 0 s3 x4_re_a2 0 -1800.1789265648224
Gr4_im_3_2 0 s3 x4_im_a2 0 -979.9156832631614
Gr5_re_3_2 0 s3 x5_re_a2 0 339.1052660944473
Gr5_im_3_2 0 s3 x5_im_a2 0 -234.97176500400977
Gd3_3 0 s3 p3 0 6.839873455700178
Fd3_3 0 s3 V3 341.9936727850089
Gr1_3_3 0 s3 x1_a3 0 -1.2695725652370458e+17
Gr2_re_3_3 0 s3 x2_re_a3 0 -168146507.74150023
Gr2_im_3_3 0 s3 x2_im_a3 0 -195284318.11535218
Gr3_re_3_3 0 s3 x3_re_a3 0 -44570317.621457174
Gr3_im_3_3 0 s3 x3_im_a3 0 -163602359.75739813
Gr4_re_3_3 0 s3 x4_re_a3 0 -3846889.82096232
Gr4_im_3_3 0 s3 x4_im_a3 0 -2069829.9410098584
Gr5_re_3_3 0 s3 x5_re_a3 0 1039567.4423453765
Gr5_im_3_3 0 s3 x5_im_a3 0 7623938.644463543
Gd3_4 0 s3 p4 0 -0.0017532502607864417
Fd3_4 0 s3 V4 -0.0876625130393221
Gr1_3_4 0 s3 x1_a4 0 32544888572000.25
Gr2_re_3_4 0 s3 x2_re_a4 0 -8015.4469631743905
Gr2_im_3_4 0 s3 x2_im_a4 0 32814.821290520784
Gr3_re_3_4 0 s3 x3_re_a4 0 -68816.06713909803
Gr3_im_3_4 0 s3 x3_im_a4 0 73299.64366886843
Gr4_re_3_4 0 s3 x4_re_a4 0 -7983.222802854595
Gr4_im_3_4 0 s3 x4_im_a4 0 -19210.52174743096
Gr5_re_3_4 0 s3 x5_re_a4 0 -60904.081901790814
Gr5_im_3_4 0 s3 x5_im_a4 0 85848.57374171514
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 7.619384561850089e-16
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 4.9620593442064046e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 280101707640.73303
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -280101707640.73303
Rp2_im_im_a3 0 x2_im_a3 4.9620593442064046e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 3.221281280932899e-11
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 204874769150.68268
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -204874769150.68268
Rp3_im_im_a3 0 x3_im_a3 3.221281280932899e-11
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 3.810870021551563e-10
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 160645344427.1817
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -160645344427.1817
Rp4_im_im_a3 0 x4_im_a3 3.810870021551563e-10
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 1.3785737572363337e-09
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 112766178254.97568
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -112766178254.97568
Rp5_im_im_a3 0 x5_im_a3 1.3785737572363337e-09
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 0.00010497359988072189
Fd4_1 0 s4 V1 0.005248679994036095
Gr1_4_1 0 s4 x1_a1 0 -1948489756493.1929
Gr2_re_4_1 0 s4 x2_re_a1 0 13852.135669291558
Gr2_im_4_1 0 s4 x2_im_a1 0 -8703.389166193258
Gr3_re_4_1 0 s4 x3_re_a1 0 -17351.81493359261
Gr3_im_4_1 0 s4 x3_im_a1 0 -2993.9809547319974
Gr4_re_4_1 0 s4 x4_re_a1 0 -1525.688353209984
Gr4_im_4_1 0 s4 x4_im_a1 0 -1691.9544919901075
Gr5_re_4_1 0 s4 x5_re_a1 0 295.24980401359824
Gr5_im_4_1 0 s4 x5_im_a1 0 -497.94920495463515
Gd4_2 0 s4 p2 0 1.511550440722136e-05
Fd4_2 0 s4 V2 0.000755775220361068
Gr1_4_2 0 s4 x1_a2 0 -279698488045.1505
Gr2_re_4_2 0 s4 x2_re_a2 0 -63604.19421904025
Gr2_im_4_2 0 s4 x2_im_a2 0 46564.41589599551
Gr3_re_4_2 0 s4 x3_re_a2 0 6838.726720282773
Gr3_im_4_2 0 s4 x3_im_a2 0 24490.831325906092
Gr4_re_4_2 0 s4 x4_re_a2 0 791.2804055449222
Gr4_im_4_2 0 s4 x4_im_a2 0 -1659.1155011925716
Gr5_re_4_2 0 s4 x5_re_a2 0 176.09079059649955
Gr5_im_4_2 0 s4 x5_im_a2 0 -89.06060738487193
Gd4_3 0 s4 p3 0 -0.001636584096188137
Fd4_3 0 s4 V3 -0.08182920480940686
Gr1_4_3 0 s4 x1_a3 0 30378781419296.043
Gr2_re_4_3 0 s4 x2_re_a3 0 914.259001848812
Gr2_im_4_3 0 s4 x2_im_a3 0 39592.31924597476
Gr3_re_4_3 0 s4 x3_re_a3 0 -74040.65583142891
Gr3_im_4_3 0 s4 x3_im_a3 0 37582.30115485241
Gr4_re_4_3 0 s4 x4_re_a3 0 -9286.815271308218
Gr4_im_4_3 0 s4 x4_im_a3 0 -20339.768132325004
Gr5_re_4_3 0 s4 x5_re_a3 0 -60779.53339282046
Gr5_im_4_3 0 s4 x5_im_a3 0 85211.4242601829
Gd4_4 0 s4 p4 0 5.683168768284787
Fd4_4 0 s4 V4 284.15843841423936
Gr1_4_4 0 s4 x1_a4 0 -1.0548238197425592e+17
Gr2_re_4_4 0 s4 x2_re_a4 0 -120709782.02111457
Gr2_im_4_4 0 s4 x2_im_a4 0 -62219645.35107785
Gr3_re_4_4 0 s4 x3_re_a4 0 -240292887.13138464
Gr3_im_4_4 0 s4 x3_im_a4 0 -36014958.10424932
Gr4_re_4_4 0 s4 x4_re_a4 0 -5846383.695948448
Gr4_im_4_4 0 s4 x4_im_a4 0 43137279.7460296
Gr5_re_4_4 0 s4 x5_re_a4 0 -1199235.0592679433
Gr5_im_4_4 0 s4 x5_im_a4 0 -3604913.0900136246
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 7.619384561850089e-16
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 4.9620593442064046e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 280101707640.73303
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -280101707640.73303
Rp2_im_im_a4 0 x2_im_a4 4.9620593442064046e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 3.221281280932899e-11
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 204874769150.68268
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -204874769150.68268
Rp3_im_im_a4 0 x3_im_a4 3.221281280932899e-11
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 3.810870021551563e-10
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 160645344427.1817
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -160645344427.1817
Rp4_im_im_a4 0 x4_im_a4 3.810870021551563e-10
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 1.3785737572363337e-09
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 112766178254.97568
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -112766178254.97568
Rp5_im_im_a4 0 x5_im_a4 1.3785737572363337e-09
.ENDS s_equivalent
