* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.001222815935973075
Fd1_1 0 s1 V1 -0.06114079679865375
Gr1_1_1 0 s1 x1_a1 0 2544846749.938541
Gr2_re_1_1 0 s1 x2_re_a1 0 4730005106.816465
Gr2_im_1_1 0 s1 x2_im_a1 0 -969263606.7987634
Gr3_re_1_1 0 s1 x3_re_a1 0 2831671054.125706
Gr3_im_1_1 0 s1 x3_im_a1 0 2318725873.7285237
Gr4_re_1_1 0 s1 x4_re_a1 0 -2440817846.8317423
Gr4_im_1_1 0 s1 x4_im_a1 0 -206182269.31655648
Gr5_re_1_1 0 s1 x5_re_a1 0 -1528893083.3862782
Gr5_im_1_1 0 s1 x5_im_a1 0 1808906340.475151
Gr6_re_1_1 0 s1 x6_re_a1 0 1476572495.3492553
Gr6_im_1_1 0 s1 x6_im_a1 0 609145875.4102708
Gr7_re_1_1 0 s1 x7_re_a1 0 -237409183.61187097
Gr7_im_1_1 0 s1 x7_im_a1 0 2634390923.173065
Gr8_re_1_1 0 s1 x8_re_a1 0 965368275.5726218
Gr8_im_1_1 0 s1 x8_im_a1 0 1986253148.6077912
Gd1_2 0 s1 p2 0 0.0015760026173575125
Fd1_2 0 s1 V2 0.07880013086787563
Gr1_1_2 0 s1 x1_a2 0 62548031741.889725
Gr2_re_1_2 0 s1 x2_re_a2 0 8067367442.885322
Gr2_im_1_2 0 s1 x2_im_a2 0 53916783238.24165
Gr3_re_1_2 0 s1 x3_re_a2 0 -17439738693.067047
Gr3_im_1_2 0 s1 x3_im_a2 0 -39947403.28991623
Gr4_re_1_2 0 s1 x4_re_a2 0 -2064675516.4311738
Gr4_im_1_2 0 s1 x4_im_a2 0 -1242047113.8476396
Gr5_re_1_2 0 s1 x5_re_a2 0 -1413324819.078042
Gr5_im_1_2 0 s1 x5_im_a2 0 -11314977.46550228
Gr6_re_1_2 0 s1 x6_re_a2 0 -1437927942.2546744
Gr6_im_1_2 0 s1 x6_im_a2 0 171694656.87759984
Gr7_re_1_2 0 s1 x7_re_a2 0 -1568439130.9096522
Gr7_im_1_2 0 s1 x7_im_a2 0 55628914.4166356
Gr8_re_1_2 0 s1 x8_re_a2 0 -1468308038.0923705
Gr8_im_1_2 0 s1 x8_im_a2 0 102490326.46982877
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.7592130461383225e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.9519846659700006e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 95164117928.67853
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -95164117928.67853
Rp2_im_im_a1 0 x2_im_a1 1.9519846659700006e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 3.944064979893547e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 151712439459.99268
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -151712439459.99268
Rp3_im_im_a1 0 x3_im_a1 3.944064979893547e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 9.872661979288477e-11
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 278823730785.1776
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -278823730785.1776
Rp4_im_im_a1 0 x4_im_a1 9.872661979288477e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.5029143470312662e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 258534659607.43982
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -258534659607.43982
Rp5_im_im_a1 0 x5_im_a1 1.5029143470312662e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.6436490213274787e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 199620403306.24713
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -199620403306.24713
Rp6_im_im_a1 0 x6_im_a1 1.6436490213274787e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.4314591206059316e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 238529963114.6849
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -238529963114.6849
Rp7_im_im_a1 0 x7_im_a1 1.4314591206059316e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.6043800948481185e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 218962457206.687
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -218962457206.687
Rp8_im_im_a1 0 x8_im_a1 1.6043800948481185e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0015599089848678616
Fd2_1 0 s2 V1 0.07799544924339309
Gr1_2_1 0 s2 x1_a1 0 62661520554.50106
Gr2_re_2_1 0 s2 x2_re_a1 0 8049478835.187769
Gr2_im_2_1 0 s2 x2_im_a1 0 54011683762.47814
Gr3_re_2_1 0 s2 x3_re_a1 0 -17465137985.20726
Gr3_im_2_1 0 s2 x3_im_a1 0 -59565980.954721205
Gr4_re_2_1 0 s2 x4_re_a1 0 -2066013825.4767659
Gr4_im_2_1 0 s2 x4_im_a1 0 -1245414474.6484046
Gr5_re_2_1 0 s2 x5_re_a1 0 -1414597859.9987576
Gr5_im_2_1 0 s2 x5_im_a1 0 -12268647.821682671
Gr6_re_2_1 0 s2 x6_re_a1 0 -1439158192.2612674
Gr6_im_2_1 0 s2 x6_im_a1 0 170299259.9370824
Gr7_re_2_1 0 s2 x7_re_a1 0 -1569739572.3642268
Gr7_im_2_1 0 s2 x7_im_a1 0 54553426.508924946
Gr8_re_2_1 0 s2 x8_re_a1 0 -1469508590.0345657
Gr8_im_2_1 0 s2 x8_im_a1 0 101280157.75321303
Gd2_2 0 s2 p2 0 0.00031484888792750805
Fd2_2 0 s2 V2 0.015742444396375403
Gr1_2_2 0 s2 x1_a2 0 -4609144944.996944
Gr2_re_2_2 0 s2 x2_re_a2 0 -1598782815.7566657
Gr2_im_2_2 0 s2 x2_im_a2 0 -5956016618.100519
Gr3_re_2_2 0 s2 x3_re_a2 0 3440618990.8487563
Gr3_im_2_2 0 s2 x3_im_a2 0 -1661669345.1628673
Gr4_re_2_2 0 s2 x4_re_a2 0 -1722247811.7606616
Gr4_im_2_2 0 s2 x4_im_a2 0 996204172.5071579
Gr5_re_2_2 0 s2 x5_re_a2 0 315926829.91568303
Gr5_im_2_2 0 s2 x5_im_a2 0 1821597959.0243683
Gr6_re_2_2 0 s2 x6_re_a2 0 1567407166.706036
Gr6_im_2_2 0 s2 x6_im_a2 0 -600827032.2475569
Gr7_re_2_2 0 s2 x7_re_a2 0 1238160796.8569927
Gr7_im_2_2 0 s2 x7_im_a2 0 1712683604.7514412
Gr8_re_2_2 0 s2 x8_re_a2 0 1625062322.8661213
Gr8_im_2_2 0 s2 x8_im_a2 0 541281697.7105803
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.7592130461383225e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.9519846659700006e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 95164117928.67853
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -95164117928.67853
Rp2_im_im_a2 0 x2_im_a2 1.9519846659700006e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 3.944064979893547e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 151712439459.99268
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -151712439459.99268
Rp3_im_im_a2 0 x3_im_a2 3.944064979893547e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 9.872661979288477e-11
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 278823730785.1776
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -278823730785.1776
Rp4_im_im_a2 0 x4_im_a2 9.872661979288477e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.5029143470312662e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 258534659607.43982
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -258534659607.43982
Rp5_im_im_a2 0 x5_im_a2 1.5029143470312662e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.6436490213274787e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 199620403306.24713
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -199620403306.24713
Rp6_im_im_a2 0 x6_im_a2 1.6436490213274787e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.4314591206059316e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 238529963114.6849
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -238529963114.6849
Rp7_im_im_a2 0 x7_im_a2 1.4314591206059316e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.6043800948481185e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 218962457206.687
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -218962457206.687
Rp8_im_im_a2 0 x8_im_a2 1.6043800948481185e-10
.ENDS s_equivalent
